US06610790B2
A round-bottomed flask was charged with a mixture of 1-iodo-1,1,3,3,5,5,6,6,6-nonafluorohexane [C2F5—CH2CF2—CH2CF2—I] (97 g, 0.26 mol) and lithium chloride (16 g, 0.376 mol) in anhydrous N,N-dimethylformamide (DMF, 120 ml) solvent. The mixture was vigorously stirred throughout the reaction. A vacuum was applied (210-220 mm Hg) and the mixture was then slowly heated up to 125° C. over a period of 1-2 hours. The volatile component which was distilled off during this heating period was collected in a cold trap. Re-distillation afforded the 1,1,3,3,5,5,6,6,6-nonafluoro-1-hexene [C2F5—CH2CF2—CH═CF2] product as a clear colorless liquid having a boiling point 72-74° C. (at a pressure of 760 mm Hg) and a yield of 36 grams (56%).

reactant | 1-iodo-1,1,3,3,5,5,6,6,6-nonafluorohexane | 0.26 mol, 97 g | IC(CC(CC(C(F)(F)F)(F)F)(F)F)(F)F | C6H4F9I
reactant | lithium chloride | 0.376 mol, 16 g | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 1,1,3,3,5,5,6,6,6-nonafluoro-1-hexene | FC(=CC(CC(C(F)(F)F)(F)F)(F)F)F | C6H3F9
